US03976648
Cadmium Bis (2-trichloromethyl-3-oxazolidinecarbodithioate) ##SPC24##
Cadmium acetate dihydrate (6.7g., 0.025 mole) was stirred into a solution of 18.4g. (0.050 mole) of triethylammonium 2-trichloromethyloxazolidine-3-carbodithioate in 300 ml. of 95% ethanol at 30°C. The precipitate was filtered off at 5°C. and water-washed on the filter. After drying in a vacuum desiccator, there was obtained 12.8 g. of white crystals, melting at 223°-225°C. with decomposition. Its infra-red spectrum confirmed the desired structure and was essentially the same as that of the corresponding zinc and copper salts.

reactant | Cadmium acetate dihydrate | 0.025 mole, 6.7g | O.O.C(C)(=O)[O-].[Cd+2].C(C)(=O)[O-]
reactant | triethylammonium 2-trichloromethyloxazolidine-3-carbodithioate | 0.050 mole | ClC(C1OCCN1C(=S)[S-])(Cl)Cl.C(C)[NH+](CC)CC
catalyst | zinc | [Zn] | Zn
catalyst | copper | [Cu] | Cu
solvent | ethanol | C(C)O | C2H6O
product | Cadmium Bis (2-trichloromethyl-3-oxazolidinecarbodithioate) | ClC(C1OCCN1C(=S)[S-])(Cl)Cl.ClC(C1OCCN1C(=S)[S-])(Cl)Cl.[Cd+2] | InChI=1S/2C5H6Cl3NOS2.Cd/c2*6-5(7,8)3-9(4(11)12)1-2-10-3;/h2*3H,1-2H2,(H,11,12);/q;;+2/p-2
